US05889002
6-Chloro-3-cyclopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and cyclopropyl isothiocyanate by a procedure analogous to the procedure described in example 3Bc-d; mp 272°-273° C.; 1H-NMR (DMSO-d6 ): δ 0.55 (m, 2H), 0.78 (m, 2H), 2.6 (m, 1H), 7.10 (s, 1H), 7.88 (br. s, 1H), 10.95 (br. s, 1H).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | cyclopropyl isothiocyanate | C1(CC1)N=C=S | C4H5NS
product | 6-Chloro-3-cyclopropylamino-4H-thieno[3,2-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC=2NC(=NS(C2S1)(=O)=O)NC1CC1 | C8H8ClN3O2S2
